.options savecurrents

* PHILIPS BJT'S
.MODEL BC557A PNP(IS=2.059E-14 ISE=2.971f ISC=1.339E-14 XTI=3 BF=227.3 BR=7.69 IKF=0.08719 IKR=0.07646 XTB=1.5 VAF=37.2 VAR=11.42 VJE=0.5912 VJC=0.1 RE=0.688 RC=0.6437 RB=1 RBM=1 IRB=1E-06 CJE=1.4E-11 CJC=1.113E-11 XCJC=0.6288 FC=0.7947 NF=1.003 NR=1.007 NE=1.316 NC=1.15 MJE=0.3572 MJC=0.3414 TF=7.046E-10 TR=1m2 ITF=0.1947 VTF=5.367 XTF=4.217 EG=1.11)
.MODEL BC547A NPN(IS=1.533E-14 ISE=7.932E-16 ISC=8.305E-14 XTI=3 BF=178.7 BR=8.628 IKF=0.1216 IKR=0.1121 XTB=1.5 VAF=69.7 VAR=44.7 VJE=0.4209 VJC=0.2 RE=0.6395 RC=0.6508 RB=1 RBM=1 IRB=1E-06 CJE=1.61E-11 CJC=4.388p XCJC=0.6193 FC=0.7762 NF=1.002 NR=1.004 NE=1.436 NC=1.207 MJE=0.3071 MJC=0.2793 TF=4.995E-10 TR=1m2 ITF=0.7021 VTF=3.523 XTF=139 EG=1.11)

Vcc vcc 0 12.0
Vin in 0 0 ac 1.0 sin(0 10m 1k)
Rin in in2 100

* input coupling capacitor
Ci in2 base 1m

* bias circuit
R1 vcc base 80k
R2 base 0 20k

* gain stage
Q1 coll base emit BC547A
Rc vcc coll 1k
Re emit 0 80

* bypass capacitor
Cb emit 0 0.5m


* output stage
Q2 0 coll emit2 BC557A
Rout emit2 vcc 1k

* output coupling capacitor
Co emit2 out 0.5m

* load
RL out 0 8

.op
.end

.control


print all

* time analysis
tran 1e-5 1e-2
plot v(in2)
hardcopy vin.ps v(in2)
plot v(coll)
hardcopy vo1.ps v(coll)
plot v(out)
hardcopy vo2.ps v(out)


let V_{CE} = v(coll)[0]-v(emit)[0]
let V_{BE} = v(base)[0]-v(emit)[0]
let V_{EC} = v(emit2)[0]
let V_{EB} = v(emit2)[0]-v(coll)[0]
print V_{CE}
print V_{BE}
print V_{EC}
print V_{EB}

* frequency analysis
ac dec 10 10 100MEG
plot vdb(coll)
plot vp(coll)
hardcopy vo1f.ps vdb(coll)

plot vdb(coll)
plot vp(coll)
hardcopy vo1m.ps vm(coll)

plot vdb(out)
plot vp(out)
hardcopy vo2f.ps vdb(out)

*let outputgain=vm(out)/vm(coll)
*plot outputgain
*hardcopy outputstagegain.ps outputgain

plot vdb(in)
hardcopy vinf.ps vdb(in2)

let gain=vm(out)/vm(in2)

echo "op_TAB"
meas ac maxgain MAX gain
meas ac maxdbgain MAX vdb(out)
let cutoff_db=maxdbgain-3
let cost=(1+0.5+0.5)*1000+(80+20+1+0.080+1)*1+2*0.1
meas ac lowfreq WHEN vdb(out)=cutoff_db rise=1
meas ac highfreq WHEN vdb(out)=cutoff_db fall=1


let bandwidth=highfreq-lowfreq

print bandwidth

*input impedance in kohm
let inputimpedance= v(in2)[40]/vin#branch[40]/(-1000)
print inputimpedance


let merit = maxgain*bandwidth/(lowfreq*cost)

print merit
echo "op_END"

*need a different setup to measure output impedance

.endc 

